US04713387
In 30 ml of methylene chloride were dissolved 3.0 g of 3-[p-[3-(2-hydroxyethyl)oxypropionyl]benzyl]pyridine and 1.61 ml of triethylamine, and into the resulting solution was dropped 0.90 ml of acetyl chloride over 30 minutes with ice-cooling. The resulting mixture was subjected to reaction at room temperature for 2 hours, after which 20 ml of water was added to the reaction mixture. The pH of the mixture was adjusted to 7 with sodium hydrogencarbonate, and the organic layer was separated, washed with 10 ml of water, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluant: benzene:ethyl acetate (1:1 by volume)] to obtain 2.94 g (yield 85.7%) of pale yellow, oily 3-[p-[3-(2-acetoxyethyl)oxypropionyl]benzyl]pyridine.

reactant | 3-[p-[3-(2-hydroxyethyl)oxypropionyl]benzyl]pyridine | 3.0 g | OCCOCCC(=O)C1=CC=C(CC=2C=NC=CC2)C=C1 | C17H19NO3
reactant | triethylamine | 1.61 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.90 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | 3-[p-[3-(2-acetoxyethyl)oxypropionyl]benzyl]pyridine | yield 85.7% | C(C)(=O)OCCOCCC(=O)C1=CC=C(CC=2C=NC=CC2)C=C1 | C19H21NO4
